US09108903B2
To a solution of 2-chloro-4-fluoro-phenol (20.97 g, 143.10 mmol) and 2-fluoro-6-(trifluoromethyl)benzaldehyde (25 g, 130.1 mmol) in DMF (125.0 mL) was added Cs2CO3 (46.62 g, 143.1 mmol) and the reaction mixture was stirred at 100° C. for 1 hour. The reaction mixture was poured into water (500 ml) and extracted with ethyl acetate (3×150 ml). The organics were combined, washed with water, brine (2×), dried over Na2SO4, filtered and evaporated to give a red oil which solidified after standing over night. The material was then triturated with hot hexanes and cooled to 25° C. The slurry was filtered and washed with cold hexanes to give 2-(2-chloro-4-fluoro-phenoxy)-6-(trifluoromethyl)benzaldehyde (32.7 g, 79%) as an off white solid. 1H NMR (400 MHz, DMSO) δ 10.61 (s, 1H), 7.84-7.70 (m, 2H), 7.66 (d, J=7.9 Hz, 1H), 7.47 (dd, J=9.0, 5.3 Hz, 1H), 7.42-7.32 (m, 1H), 7.12 (d, J=8.3 Hz, 1H) ppm.

reactant | 2-chloro-4-fluoro-phenol | 143.10 mmol, 20.97 g | ClC1=C(C=CC(=C1)F)O | C6H4ClFO
reactant | 2-fluoro-6-(trifluoromethyl)benzaldehyde | 130.1 mmol, 25 g | FC1=C(C=O)C(=CC=C1)C(F)(F)F | C8H4F4O
reactant | Cs2CO3 | 143.1 mmol, 46.62 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 500 ml | O | H2O
solvent | DMF | 125.0 mL | CN(C)C=O | C3H7NO
product | 2-(2-chloro-4-fluoro-phenoxy)-6-(trifluoromethyl)benzaldehyde | 32.7 g, 79% | ClC1=C(OC2=C(C=O)C(=CC=C2)C(F)(F)F)C=CC(=C1)F | C14H7ClF4O2
